US04336054
To a solution of 550 mg (2.2 mmole) of fluoromethyl 3-phthalimido-3-methylpropyl ketone in a mixture of 5 ml of tetrahydrofuran and 5 ml of methanol cooled to -20° C. is added a solution of 0.8 mmole of sodium borohydride in a mixture of 5 ml of tetrahydrofuran and 5 ml of methanol precooled to -20° C. The reaction mixture is stirred for 15 minutes at -20° C. and then neutralized with 2 M HCl to a pH of 1. The solvents are evaporated under reduced pressure and the residue is partitioned between water and chloroform. The organic phase is washed and brine, dried over magnesium sulfate and concentrated to give a residue which is recrystallized from tetrahydrofuran-diethylether to afford 1-fluoro-5-phthalimido-5-methyl-2-pentanol. A mixture of 264 mg (1.05 mmole) of 1-fluoro-5-phthalimido-5-methylpentanol, 170 mg (1.05 mmole) of the phthalimide, 302 mg (1.05 mmole) of triphenylphosphine and 201 mg (1.15 mmole) of diethylazodicarboxylate in 8 ml of tetrahydrofuran is stirred under nitrogen for 2 hours at 25° C. The solvent is evaporated under reduced pressure and the residue taken up in benzene. The insoluble material is discarded and the residue obtained after concentration of the filtrate is recrystallized from tetrahydrofuran-diethylether to give 1-fluoromethyl-4-methyl-1,4-butanediyl-bis-phthalimide. A suspension of 3.1 g of 1-fluoromethyl-4-methyl-1,4-butanediyl-bis-phthalimide in 140 ml of concentrated HCl is heated at reflux temperature for 3 days. The phthalic acid which precipitates on cooling to 4° C. is filtered off. The filtrate is concentrated to about 20 ml and cooled to 4° C. The remaining phthalic acid which separates is filtered off and the filtrate is concentrated under reduced pressure. The residue is treated with 40 ml of boiling isopropyl alcohol 3 times and then recrystallized from absolute ethanol to give 1-fluoromethyl-4-methyl-1,4-butanediamine dihydrochloride.

reactant | fluoromethyl 3-phthalimido-3-methylpropyl ketone | 2.2 mmole, 550 mg | C1(C=2C(C(N1C(CCC(=O)CF)C)=O)=CC=CC2)=O | C14H14FNO3
reactant | sodium borohydride | 0.8 mmole | [BH4-].[Na+]
reactant | HCl | 2 M | Cl | ClH
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | methanol | 5 ml | CO | CH4O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | methanol | 5 ml | CO | CH4O
product | 1-fluoro-5-phthalimido-5-methyl-2-pentanol | FCC(CCC(C)N1C(C=2C(C1=O)=CC=CC2)=O)O | C14H16FNO3
